US08754100B2
Synthesis of 3-methyl-4-(4-trifluoromethylphenyl)tetrahydropyran-2-one
4-(4-Trifluoromethylphenyl)tetrahydropyran-2-one (995 mg) derived by the same method as in Preparation Example 2-10 from 4-(trifluoromethyl)phenylboronic acid (5.29 g) and 5,6-dihydro-2H-pyran-2-one was dissolved in tetrahydrofuran (10 mL). The solution was added dropwise at −78° C. to a lithium diisopropylamide solution previously prepared from n-butyllithium (3.91 mL) and diisopropylamine (1.46 mL) in tetrahydrofuran (30 mL). After stirring at the same temperature for 30 minutes, iodomethane (760 μL) and hexamethylphosphoramide (1.77 mL) were added and stirring was continued. After stirring for 30 minutes, the reaction solution was gradually heated to room temperature over three hours and 20 minutes. The reaction was terminated with saturated ammonium chloride aqueous solution. The organic layer was washed with brine and then dried over magnesium sulfate. Removal under reduced pressure gave an oil. The oil was purified by silica gel column chromatography (mobile phase:ethyl acetate/heptane=0 to 50%) to obtain the title compound (500 mg).

reactant | 4-(4-Trifluoromethylphenyl)tetrahydropyran-2-one | 995 mg | FC(C1=CC=C(C=C1)C1CC(OCC1)=O)(F)F | C12H11F3O2
reactant | 4-(trifluoromethyl)phenylboronic acid | 5.29 g | FC(C1=CC=C(C=C1)B(O)O)(F)F | C7H6BF3O2
reactant | 5,6-dihydro-2H-pyran-2-one | O1C(C=CCC1)=O | C5H6O2
reactant | lithium diisopropylamide | C(C)(C)[N-]C(C)C.[Li+]
reactant | n-butyllithium | 3.91 mL | C(CCC)[Li]
reactant | diisopropylamine | 1.46 mL | C(C)(C)NC(C)C | C6H15N
reactant | iodomethane | 760 μL | IC | CH3I
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 30 mL | O1CCCC1 | C4H8O
solvent | hexamethylphosphoramide | 1.77 mL | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
product | 3-methyl-4-(4-trifluoromethylphenyl)tetrahydropyran-2-one | 500 mg | CC1C(OCCC1C1=CC=C(C=C1)C(F)(F)F)=O | C13H13F3O2
